US03956370
N-Benzyl-N-phosphonomethylglycine (65 g.) prepared by the method of Example 1 was dissolved in aqueous hydrobromic acid (46 - 48% w/w, 400 ml.) and the pale yellow solution heated under reflux for 16 hours. The oily layer of benzyl bromide which separated was extracted with petroleum ether (b.p. 60°-80°, 200 ml.) and the pale yellow hydrobromic acid solution evaporated to dryness under reduced pressure. The light brown crystalline product was dissolved in ethanol (300 ml.) and the solution quickly filtered and allowed to stand at room temperature. After a few minutes a white solid began to separate. After cooling at 0° C for 3 hours, the solid (approximately 20 g. m.p. 222° C decomp.) was collected and recrystallised from water to yield N-phosphonomethylglycine (17.2 g 41%) This material became coloured and softened at 230° - 235° C but did not decompose until 314° C. This material was analysed. Found: C, 21.13; H 4.52; N 8.49% Calculated for C3H8NO5P: C, 21.31; H, 4.77; N, 8.28% The melting point of analytically pure N-phosphonomethyglycine, purified by slow precipitation from strongly acid aqueous solution, has been reported in Belgian Pat. No. 774,349 to be 230° C (decomp.) A sample of N-phosphonomethylglycine was purified by precipitation from strongly acid (HCl) aqueous solution and was found to have a melting point of 230° (decomp.) This material was found to have nuclear magnetic resonance spectrum identical with that of the material recrystallised from water and having a melting point of 314° (decomp.) The solvent used for studying the nuclear magnetic resonance spectrum was deuterium oxide. The infra-red spectra of Nujol mulls of the two materials (m.p. 230° and m.p. 314°) were examined and found to be very similar with some minor differences in peak heights. The solubility of the two forms in water was determined at various temperatures by adding the finely powdered solids to deionised water until saturated. The results are given below.

reactant | N-Benzyl-N-phosphonomethylglycine | 65 g | C(C1=CC=CC=C1)N(CC(=O)O)CP(=O)(O)O | C10H14NO5P
solvent | hydrobromic acid | 400 ml | Br | BrH
product | N-phosphonomethylglycine | 17.2 g, 41% | P(=O)(O)(O)CNCC(=O)O | C3H8NO5P
